US09302991B2
<Step-1>: methyl 6-methyl-4-((1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)picolinate (single enantiomer)
The title compound is prepared in 72% yield (110 mg, clear colorless oil) from 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (97 mg, 0.36 mmol, Amine-17, single enantiomer) and 2-(methoxycarbonyl)-6-methylisonicotinic acid (70 mg, 0.36 mmol) by the similar manner in Step-1 of Example 8.

reactant | 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.36 mmol, 97 mg | Cl.CC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-(methoxycarbonyl)-6-methylisonicotinic acid | 0.36 mmol, 70 mg | COC(=O)C=1C=C(C(=O)O)C=C(N1)C | C9H9NO4
product | methyl 6-methyl-4-((1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)picolinate | 72% yield | CC1=CC(=CC(=N1)C(=O)OC)C(NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F)=O | C19H20F3N3O4
